US03984467
1-(3,4-Dichlorophenyl)-3-(pentanimidoyl)urea
Following a procedure similar to that described in Example 1 but using 3.39 g. sodium in 200 ml. dry acetone, 20 g. valeramidine hydrochloride, and 27.6 g. 3,4-dichlorophenyl isocyanate in 100 ml. dry acetone, there was obtained after recrystallization from acetone 10.5 g. of the hydrochloride of 1-(3,4-dichlorophenyl)-3-(pentanimidoyl)urea; m.p. 177°-179°C.

reactant | sodium | [Na] | Na
reactant | valeramidine hydrochloride | Cl.C(CCCC)(=N)N
reactant | 3,4-dichlorophenyl isocyanate | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
solvent | acetone | CC(=O)C | C3H6O
product | 1-(3,4-Dichlorophenyl)-3-(pentanimidoyl)urea | ClC=1C=C(C=CC1Cl)NC(=O)NC(CCCC)=N | C12H15Cl2N3O
